US06451810B1
2-Hydroxy-1H-benzimidazole (62 g, 0.46 mole) was added to phosphorous oxychloride (200 mL) and the mixture was refluxed for 4.5 hours. The resulting solution was poured over 4 L of ice and the mixture was made strongly basic with ammonium hydroxide. The resulting solid was isolated by filtration, washed with water and dried to provide crude 2-chloro-1H-benzimidazole.

reactant | 2-Hydroxy-1H-benzimidazole | 0.46 mole, 62 g | OC1=NC2=C(N1)C=CC=C2 | C7H6N2O
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | phosphorous oxychloride | 200 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-1H-benzimidazole | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
